US07189741B2
E. Preparation of 3-{4-[5-methoxy-1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 1.7 g (5 mmol) of 5-methoxy-3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole and 1.3 g (5.5 mmol) of 3-bromomethyl-benzoic acid methyl ester. After standard work-up, 0.8 g (34% of yield) of the expected acid were obtained.

reactant | 5-methoxy-3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole | 5 mmol, 1.7 g | COC=1C=C2C(=CN(C2=CC1)CCC1=CSC=C1)C1CCNCC1 | C20H24N2OS
reactant | 3-bromomethyl-benzoic acid methyl ester | 5.5 mmol, 1.3 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-{4-[5-methoxy-1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | COC=1C=C2C(=CN(C2=CC1)CCC1=CSC=C1)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C28H30N2O3S
